US07691882B2
3-(4-(2-Nitro-ethyl)-phenoxymethyl)-thiophene
To an acetic acid (4.1 mL) and dimethyl sulfoxide (70 mL) solution of 3-(4-((E)-2-nitro-vinyl)-phenoxymethyl)-thiophene (4.1 g, 15.7 mmol) described in Manufacturing Example 77-1-2 was added sodium borohydride (950 mg, 25.1 mmol) at room temperature while cooling appropriately. This mixture was stirred for 1.5 hours at room temperature. The mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (1.93 g, 47%).

reactant | acetic acid | 4.1 mL | C(C)(=O)O | C2H4O2
reactant | 3-(4-((E)-2-nitro-vinyl)-phenoxymethyl)-thiophene | 15.7 mmol, 4.1 g | [N+](=O)([O-])/C=C/C1=CC=C(OCC2=CSC=C2)C=C1 | C13H11NO3S
reactant | sodium borohydride | 25.1 mmol, 950 mg | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 70 mL | CS(=O)C | C2H6OS
product | 3-(4-(2-Nitro-ethyl)-phenoxymethyl)-thiophene | 1.93 g, 47% | [N+](=O)([O-])CCC1=CC=C(OCC2=CSC=C2)C=C1 | C13H13NO3S
